US05648511
L-Phenylalaninol (89.51 g, 0.592 moles) was dissolved in 375 mL of methanol under inert atmosphere, 35.52 g (0.592 moles) of glacial acetic acid and 50 mL of methanol was added followed by a solution of 62.83 g (0.592 moles) of benzaldehyde in 100 mL of methanol. The mixture was cooled to approximately 15° C. and a solution of 134.6 g(2.14 moles) of sodium cyanoborohydride in 700 mL of methanol was added in approximately 40 minutes, keeping the temperature between 15° C. and 25° C. The mixture was stirred at room temperature for 18 hours. The mixture was concentrated under reduced presssure and partitioned between 1 L of 2M ammonium hydroxide solution and 2 L of ether. The ether layer was washed with 1 L of 1M ammonium hydroxide solution, twice with 500 mL water, 500 mL of brine and dried over magnesium sulfate for 1 hour. The ether layer was filtered, concentrated under reduced pressure and the crude solid product was recrystallized from 110 mL of ethyl acetate and 1.3 L of hexane to give 115 g (81% yield) of N-benzyl-L-phenylalaninol as a white solid.

reactant | L-Phenylalaninol | 0.592 moles, 89.51 g | N[C@@H](CC1=CC=CC=C1)CO | C9H13NO
reactant | acetic acid | 0.592 moles, 35.52 g | C(C)(=O)O | C2H4O2
reactant | benzaldehyde | 0.592 moles, 62.83 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 2.14 moles, 134.6 g | C(#N)[BH3-].[Na+]
solvent | methanol | 375 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 700 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | N-benzyl-L-phenylalaninol | 115 g, 81% yield | C(C1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)CO | C16H19NO
